US04814343
5-Methyl-1-triphenylmethyl-1H-imidazole-4-methanol
230 ml (1.659 mole) of triethylamine are added in the course of 15 minutes to a solution of 100 g (0.673 mole) of 5-methyl-1H-imidazole-4-methanol in 1.5 liter of dimethylformamide maintained between 10° and 14° C. Subsequently, a solution containing 192 g (0.69 mole) of triphenylmethyl chloride in 2 liters of dimethylformamide is introduced between 8° and 11° C. The reaction mixture is stirred for 2 hours and then poured on 14 liters of ice. Stirring is continued for 1 hour, whereafter the precipitate obtained is filtered off, washed with 6 liters of water and dried. This precipitate is then again taken up in 4 liters of boiling ethanol and the insoluble material is separated by hot filtration. Thus, a first crop (19 g; M.P.: 255°-260° C.) of the desired product is recovered. The alcoholic filtrate is filtered hot on Norit, then concentrated and cooled while stirring. A second crop of the desired product crystallizes. It is filtered off, the yield being 28.3 g; M.P.: 255°-262° C. Finally, the filtrate is distilled under reduced pressure and the residue obtained is dissolved in 1 liter of a 95:5 v/v dichloromethane-methanol mixture and the solution obtained is purified by passage through a column of 1.8 kg of silica (0.2-0.5 mm) (eluent: a 80:20 v/v dichloromethane-methanol mixture). A further 72.1 g of the desired product are thus recovered. In total, 119.4 g are recovered containing practically only one of the two possible isomers in the 4- and 5-positions, namely, the 5-methyl-1-triphenylmethyl-1H-imidazole-4-methanol. The yield is 50.1% of theory. The product obtained is used as such in the following step.

reactant | triethylamine | 1.659 mole, 230 ml | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-1H-imidazole-4-methanol | 0.673 mole, 100 g | CC1=C(N=CN1)CO | C5H8N2O
reactant | triphenylmethyl chloride | 0.69 mole, 192 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 1.5 liter | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 liters | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | 5-Methyl-1-triphenylmethyl-1H-imidazole-4-methanol | yield is 50.1% | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C24H22N2O
